US06403573B1
Under nitrogen a solution of 3-(2,3-dimethoxyphenyl)-propanoic acid (2 g) in 50 ml methanesulfonic acid was warmed at 60° C. and kept there for 2 hours. The reaction mixture was cooled to room temperature and poured into ice/water. After extraction with ethyl acetate the organic layer was washed with a 1N aqueous sodium hydroxyde solution, dried over magnesium sulfate, filtered and evaporated in vacuo yielding 1.2 g of 2,3-dihydro4,5-dimethoxy-1H-inden-1-one, M.S. (C.I.) (M/Z): 193 [M+H]+.

reactant | 3-(2,3-dimethoxyphenyl)-propanoic acid | 2 g | COC1=C(C=CC=C1OC)CCC(=O)O | C11H14O4
solvent | methanesulfonic acid | 50 ml | CS(=O)(=O)O | CH4O3S
product | 2,3-dihydro4,5-dimethoxy-1H-inden-1-one | 1.2 g | COC1=C2CCC(C2=CC=C1OC)=O | C11H12O3
